US04024266
2.4 g of magnesium previously activated with iodine were reacted with 12.0 g of 4-chloro-1-methylpiperidine in 100 ml of anhydrous tetrahydrofuran over 2 hours at reflux temperature. The reaction mixture was cooled to 10°, and reacted with a solution of 9,10-dihydro-9-methyl4H-benzo[4,5]cyclohepta[1,2-b]thiophen-4-one in 70 ml of anhydrous tetrahydrofuran. After 1 hour of stirring at room temperature and 1 hour at reflux temperature the reaction mixture was cooled and treated with 150 ml of 20% w/v of aqueous ammonium chloride. The organic phase was separated off and worked up to give as a thick oil 9,10-dihydro-9-methyl-4-(1-methyl-4-piperidyl)-4H-benzo[4,5]cyclohepta[1,2-b]thiophen-4-ol which was further reacted as such.

reactant | magnesium | 2.4 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | 4-chloro-1-methylpiperidine | 12.0 g | ClC1CCN(CC1)C | C6H12ClN
reactant | 9,10-dihydro-9-methyl4H-benzo[4,5]cyclohepta[1,2-b]thiophen-4-one | CC1C2=C(C(C3=C(SC=C3)C1)=O)C=CC=C2 | C14H12OS
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | 9,10-dihydro-9-methyl-4-(1-methyl-4-piperidyl)-4H-benzo[4,5]cyclohepta[1,2-b]thiophen-4-ol | CC1C2=C(C(C3=C(SC=C3)C1)(O)C1CCN(CC1)C)C=CC=C2 | C20H25NOS
